.subckt FF600R12IP4 C G E
M1 1 G E Migbt
Q1 E 1 C Qigbt
D1 E C Digbt
.model Migbt VDMOS(Vto=6.1 Kp=1.2 mtriode=1.55 Rd=0 Rs=10m Rg=10m
+ Cgs=34.95n Cgdmax=200n Cgdmin=2.05n Is=0 oneway tt=1p)
.model Qigbt PNP(Is=1n Bf=67.01 Nf=1.4)
.model Digbt D(Is=34.49m Rs=801.607u N=5.129)
.ends FF600R12IP4
